US04298529
A mixture of ethyl 2-hydroxyimino-3-oxo-4-chlorobutyrate (syn isomer, 10 g), ethylene glycol (16 g), p-toluenesulfonic acid (0.3 g) and dried benzene (100 ml) was heated for 19 hours under reflux while removing water azeotropically. After the reaction mixture was cooled to ambient temperature, water (30 ml) and benzene (20 ml) were added thereto. The mixture was saturated with sodium chloride and the benzene layer was separated, and the remaining aqueous layer was further extracted with benzene (20 ml). The benzene layer and extract were combined together, washed with a saturated aqueous solution of sodium chloride (30 ml×2), dried over magnesium sulfate and then filtered. The filtrate was evaporated to give an oil of ethyl 2-hydroxyimino-3,3-ethylenedioxy-4-chlorobutyrate (syn isomer, 7.23 g). (Yield: 58.9%).

reactant | ethyl 2-hydroxyimino-3-oxo-4-chlorobutyrate | 10 g | ON=C(C(=O)OCC)C(CCl)=O | C6H8ClNO4
reactant | ethylene glycol | 16 g | C(CO)O | C2H6O2
catalyst | p-toluenesulfonic acid | 0.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | ethyl 2-hydroxyimino-3,3-ethylenedioxy-4-chlorobutyrate | 7.23 g, Yield: 58.9% | ON=C(C(=O)OCC)C1(CCl)OCCO1 | C8H12ClNO5
